US08067445B2
Step 1: {2′-[(2,2-Dimethyl-propylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 5, using the following starting materials: (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and neopentylamine.

reactant | (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C18H15F3O4
reactant | neopentylamine | C(C(C)(C)C)N | C5H13N
product | {2′-[(2,2-Dimethyl-propylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC(C)(C)C)=O | C23H28F3NO3
